US04013652
2,3,9,10,11,12-hexahydro-1H,5H-pyrido[3',4':4,5]pyrrolo[3,2,1-kl][5,1]benzoxazocine hydrochloride
A solution of 2.54 g of β-chloropropionyl chloride in 30 ml of anhydrous ether is added slowly to a stirred solution of 2.13 g of 2-aminobenzyl alcohol in 100 ml of anhydrous ether and 1.8 ml of triethylamine previously cooled to 0° C. After the addition is complete, stirring is continued for another hour, keeping the reaction mixture at 0° C. Water (30 ml.) is then added, and the reaction mixture is acidified with hydrochloric acid. The ether layer is separated, washed with an aqueous saturated solution of sodium chloride, dried with sodium sulfate, filtered and evaporated to dryness. The resulting 2-(2-chloropropionamido)benzyl alcohol is converted, in a manner similar to that described for the preparation of 1,2,3,5-tetrahydro-4,1-benzoxazepine (E. Testa and L. Fontanella, Fr. Pat. No. 1,405,271) to 1,3,4,6-tetrahydro-2H-5,1-benzoxazocine. The latter, by a procedure similar to that described in Example 110 is converted to the title compound.

reactant | β-chloropropionyl chloride | 2.54 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | 2-aminobenzyl alcohol | 2.13 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | hydrochloric acid | Cl | ClH
reactant | 1,3,4,6-tetrahydro-2H-5,1-benzoxazocine | N1CCCOCC2=C1C=CC=C2 | C10H13NO
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
solvent | Water | 30 ml | O | H2O
product | 2,3,9,10,11,12-hexahydro-1H,5H-pyrido[3',4':4,5]pyrrolo[3,2,1-kl][5,1]benzoxazocine hydrochloride | Cl.C1N2C3=C(COCC1)C=CC=C3C3=C2CCNC3 | InChI=1S/C15H18N2O.ClH/c1-3-11-10-18-8-2-7-17-14-5-6-16-9-13(14)12(4-1)15(11)17;/h1,3-4,16H,2,5-10H2;1H
